US05610295
(a) 2,3,4,5,6,7-Hexahydro-1-(4-hydroxy-2-phenylbutanoyl)-1H-azepine
2,3,4,5,6,7-Hexahydro-1H-azepine (3.36 g, 33.9 mmol) in 1,2-dichloroethane (10 ml) was added to a cooled (ice/water) solution of triethylamine (4.68 g, 46.2 mmol) and aluminium trichloride (4.52 g, 33.9 mmol) in 1,2-dichloroethane (70 ml). A solution of 2-phenylbutyrolactone (5.00 g, 30.8 mmol) in 1,2-dichloroethane (50 ml) was added to the cooled reaction mixture and stirring continued overnight. The reaction mixture was poured into water (150 ml), basified with 2M-NaOH, and washed with ethyl acetate (3×80 ml). The combined organic phases were washed with brine (80 ml) and water (80 ml), dried (MgSO4), and concentrated in vacuo to afford a brown oil which partially solidified on standing. The crude product was chromatographed on silica gel, eluting with ethyl acetate to give the title compound as an oil (2.68 g, 33.3%).

reactant | 2,3,4,5,6,7-Hexahydro-1H-azepine | 33.9 mmol, 3.36 g | N1CCCCCC1 | C6H13N
reactant | triethylamine | 46.2 mmol, 4.68 g | C(C)N(CC)CC | C6H15N
reactant | aluminium trichloride | 33.9 mmol, 4.52 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2-phenylbutyrolactone | 30.8 mmol, 5.00 g | C1(=CC=CC=C1)C1C(=O)OCC1 | C10H10O2
reactant | NaOH | [OH-].[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | water | 150 ml | O | H2O
product | 2,3,4,5,6,7-Hexahydro-1-(4-hydroxy-2-phenylbutanoyl)-1H-azepine | 2.68 g, 33.3% | OCCC(C(=O)N1CCCCCC1)C1=CC=CC=C1 | C16H23NO2
